US08314098B2
(Step 2): (7-Morpholin-4-yl-2-pyrimidin-5-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine
There was suspended, in 1,4-dioxane (1.0 mL), 5-chloro-7-morpholin-4-yl-2-pyrimidin-5-yl-pyrazolo[1,5-a]pyrimidine (20 mg, 2.4 mM) prepared in the preceding step 1, then hydrazine monohydrate (29 μL, 0.6 mM) was added to the suspension and the mixture was stirred for 6 hours while refluxing the same with heating. After the stirring operation, the reaction liquid was concentrated, the concentrate was diluted with water and then the mixture was extracted with ethyl acetate. The resulting extracts were combined, dried over anhydrous sodium sulfate and the solvent was distilled off to thus give a crude product of the title compound (18 mg, yield: 96%).

reactant | 5-chloro-7-morpholin-4-yl-2-pyrimidin-5-yl-pyrazolo[1,5-a]pyrimidine | 2.4 mM, 20 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C=2C=NC=NC2 | C14H13ClN6O
reactant | hydrazine monohydrate | 0.6 mM, 29 μL | O.NN
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | (7-Morpholin-4-yl-2-pyrimidin-5-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | 18 mg, yield: 96% | N1(CCOCC1)C1=CC(=NC=2N1N=C(C2)C=2C=NC=NC2)NN | C14H16N8O
